US07183287B2
Preparation of N-[1-(aminocarbonyl)methyl]-3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methylbenzamide
The title compound was prepared using a procedure similar to that used in Step 2 of the synthesis of 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-N-[(1S)-2-hydroxy-1-methylethyl]-4-methylbenzamide by substituting glycineamide HCl for (S)-(+)-2-amino-1-propanol. 1H NMR (CD3OD/400 MHz) δ8.32 (s, 1H), 7.95 (m, 1H), 7.80 (s, 1H), 7.61 (q, 1H, J=8.4 Hz), 7.53 (d, 1H, J=8.0 Hz), 7.01 (m, 2H), 5.58 (m, 2H), 4.01 (s, 2H), 2.20 (s, 3H). ESHRMS m/z 507.0474 (M+H calculated for C21H18BrF2N4O4 requires 507.0474).

reactant | 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-N-[(1S)-2-hydroxy-1-methylethyl]-4-methylbenzamide | BrC1=C(N=CN(C1=O)C=1C=C(C(=O)N[C@H](CO)C)C=CC1C)OCC1=C(C=C(C=C1)F)F | C22H20BrF2N3O4
reactant | (S)-(+)-2-amino-1-propanol | N[C@H](CO)C | C3H9NO
product | N-[1-(aminocarbonyl)methyl]-3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methylbenzamide | NC(=O)CNC(C1=CC(=C(C=C1)C)N1C=NC(=C(C1=O)Br)OCC1=C(C=C(C=C1)F)F)=O | C21H17BrF2N4O4
